US09120749B2
cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(6-(piperidin-3-ylamino)pyridine-3-ylamino)quinolin-3-yl)methanone
Following general procedure D, tert-butyl 3-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-ylamino)piperidine-1-carboxylate (100 mg, 0.18 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (78 mg, 0.27 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (11 mg, 11% over 2 steps) as a yellow-brown solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.40 (s, 1H), 8.23 (dd, J=8.8, 1.9 Hz, 1H), 8.15 (s, 1H), 8.12 (d, J=2.6 Hz, 1H), 8.00 (d, J=8.7 Hz, 1H), 7.58 (dd, J=9.0, 2.7 Hz, 1H), 7.36 (s, 2H), 6.82 (d, J=9.2 Hz, 1H), 4.22 (ddd, J=14.0, 10.0, 3.8 Hz, 1H), 3.63 (dd, J=12.1, 3.5 Hz, 1H), 3.02 (td, J=11.9, 3.4 Hz, 1H), 2.89 (m, 2H), 2.12 (m, 1H), 1.86 (dtt, J=14.9, 11.2, 3.7 Hz, 1H), 1.71 (q, J=10.1 Hz, 1H), 1.21 (m, 4H); ESI MS m/z 548 [C29H27Cl2N5O2+H]+; HPLC 99.5% (AUC), tR=10.58 min.

reactant | tert-butyl 3-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-ylamino)piperidine-1-carboxylate | 0.18 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)NC1CN(CCC1)C(=O)OC(C)(C)C | C28H32BrN5O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.27 mmol, 78 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(6-(piperidin-3-ylamino)pyridine-3-ylamino)quinolin-3-yl)methanone | 11 mg, 11% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NC(=CC1)NC1CNCCC1)C1=CC(=C(C(=C1)Cl)O)Cl | C29H27Cl2N5O2
